US06359138B1
(RS)-Toluene-4-sulfonic acid 5-methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl Ester
(RS)-(5-methoxy-2,3-dihydro-1H-indol-2-yl)-methanol (100 mg, 0.46 mmol), p-toluenesulfonyl chloride (177 mg, 0.93 mmol), triethylamine (0.21 ml, 1.48 mmol) and N,N-dimethylamino pyridine (2 mg) were stirred for 18 hr at RT in CH2Cl2 (5 ml). 1N HCl (10 ml) was added, the mixture extracted with CH2Cl2 (2×25 ml) and the extracts washed with satd. NaCl solution (20 ml) and dried (Na2SO4). The crude material was chromatographed over SiO2 (Merck 230-400 mesh) eluting with EtOAc-cyclohexane-Et3N (9:10:1) to afford the title compound as a yellow oil (172.8 mg, 0.35 mmol, 76%), MS: m/e=488.0 (M+H+).

reactant | (RS)-(5-methoxy-2,3-dihydro-1H-indol-2-yl)-methanol | 0.46 mmol, 100 mg | COC=1C=C2CC(NC2=CC1)CO | C10H13NO2
reactant | p-toluenesulfonyl chloride | 0.93 mmol, 177 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 1.48 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 10 ml | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (RS)-Toluene-4-sulfonic acid 5-methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl Ester | 0.35 mmol, 172.8 mg, 76% | COC=1C=C2CC(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)COS(=O)(=O)C1=CC=C(C=C1)C | C24H25NO6S2
